US04452783
4-Allyloxy-3-chloro-phenylacetyl-(DL)-alanine
4-Allyloxy-3-chloro-phenylacetyl-(DL)-alanine methyl ester (2.0 g) was suspended in acetone (20 ml). Aqueous sodium hydroxide (1 M, 8.0 ml) was added and the mixture was gently warmed to effect solution, and then heated to 40° C. for 20 min. After the solution has been cooled, the pH was adjusted to 2-3 using dilute hydrochloric acid (3 M) and the product was extracted with ethyl acetate (40 ml). The extract was dried (anhydrous sodium sulphate). The solvent was evaporated at reduced pressure to leave a solid residue (1.8 g); it had m.p. 120°-124° C. After recrystallisation from ethyl acetate/light petroleum (b.p. 60°-80° C.) the above-named product, (1.6 g), m.p. 123°-124° C. was obtained.

reactant | 4-Allyloxy-3-chloro-phenylacetyl-(DL)-alanine methyl ester | 2.0 g | COC(C(NC(CC1=CC=C(C=C1)OCC=C)=O)CCl)=O | C15H18ClNO4
reactant | sodium hydroxide | 1 M, 8.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-Allyloxy-3-chloro-phenylacetyl-(DL)-alanine | 1.8 g | C(C=C)OC1=CC=C(C=C1)CC(=O)NC(CCl)C(=O)O | C14H16ClNO4
